US04698337
7-[2-(2-Formamidothiazol-4-yl)-2-(2-tert-butoxycarbonylaminoethoxyimino)acetamido]-3-(1-allyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer, 3.5 g.) was treated with conc. hydrochloric acid (3.2 g.) in a similar manner to that of Example 23-(2) to give 7-[2-(2-aminothiazol-4-yl)-2-(2-aminoethoxyimino)acetamido]-3-(1-allyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid dihydrochloride (syn isomer, 3.0 g.).

reactant | 7-[2-(2-Formamidothiazol-4-yl)-2-(2-tert-butoxycarbonylaminoethoxyimino)acetamido]-3-(1-allyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 3.5 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC=C)C(=O)O)C1=O)=NOCCNC(=O)OC(C)(C)C | C25H30N10O8S3
reactant | hydrochloric acid | 3.2 g | Cl | ClH
product | 7-[2-(2-aminothiazol-4-yl)-2-(2-aminoethoxyimino)acetamido]-3-(1-allyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid dihydrochloride | 3.0 g | Cl.Cl.NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC=C)C(=O)O)C1=O)=NOCCN | InChI=1S/C19H22N10O5S3.2ClH/c1-2-4-28-19(24-26-27-28)37-7-9-6-35-16-12(15(31)29(16)13(9)17(32)33)23-14(30)11(25-34-5-3-20)10-8-36-18(21)22-10;;/h2,8,12,16H,1,3-7,20H2,(H2,21,22)(H,23,30)(H,32,33);2*1H/t12?,16-;;/m1../s1
